US05254718
Synthesis of 2-(1-methylethoxy)-2-oxoethyl 2-hydroxy-3-phenylpropionate
A 6 mL aliquot of an ethyl ether solution containing 0.25 M 2-chloroethyl 2-hydroxy-3-phenylpropionate, 0.25 M isopropyl glycolate, and 1.0% tert-butylbenzene was added to 0.43 g Lipase AK. After mixing for 2 d at room temperature, the conversion of 2-chloroethyl 2-hydroxy-3-phenylpropionate to the title compound was estimated (by GC, Method B) to be approximately 28%. The GC peak assigned to the title compound was confirmed by HRMS: calcd for C13H14O5Tms (M--CH3) 323.1314, obsd 323.1290. In identical reactions substituting Lipase P30, Lipase G, Lipase MAP10, porcine pancreatic lipase, Lipase AP12 or Protease M for Lipase AK, the relative values for conversions at 2 d (Lipase AK=100) were 88, 85, 76, 51, 7, and 7%, respectively.

reactant | 2-chloroethyl 2-hydroxy-3-phenylpropionate | 0.25 M | OC(C(=O)OCCCl)CC1=CC=CC=C1 | C11H13ClO3
reactant | isopropyl glycolate | 0.25 M | C(CO)(=O)OC(C)C | C5H10O3
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(1-methylethoxy)-2-oxoethyl 2-hydroxy-3-phenylpropionate | OC(C(=O)OCC(=O)OC(C)C)CC1=CC=CC=C1 | C14H18O5
